US04886835
Ethyl n-decanoate (10 g) is added in the course of 10 minutes at a temperature in the region of -78° C. to a stirred mixture of diisopropylamine (5.6 cc), a 1.6M solution (37.5 cc) of n-butyllithium in hexane and tetrahydrofuran (30 cc). Stirring is maintained for 30 minutes at the same temperature, N-(3-dimethylamino-3-ethoxycarbonylpropenylidene)-N-methylmethanaminium tetrafluoroborate (14.3 g) is then added and stirring is maintained for 3 hours at a temperature in the region of -78° C. After a gradual warming to approximately 20° C., ammonium chloride (4 g) dissolved in water (50 cc) is added to the reaction medium. Dichloromethane (200 cc) and water (100 cc) are added, and the organic phase is separated off after settling has taken place. The aqueous phase is washed with dichloromethane (2×50 cc). The organic phases are combined, dried over anhydrous magnesium sulphate, filtered and evaporated at 40° C. under reduced pressure (20 mm Hg; 2.7 kPa). The residue is dissolved in a mixture (30 cc) of cyclohexane and ethyl acetate (60:40 by volume), and the solution obtained is poured onto silica (600 g) contained in a column 7 cm in diameter. Elution is performed with a mixture of cyclohexane and ethyl acetate (60:40 by volume), and the eluate is concentrated to dryness at 40° C. under reduced pressure (20 mm Hg; 2.7 kPa). Ethyl 2-dimethylamino-5-ethoxycarbonyl-2,4-tridecadienoate (9.8 g) is thereby obtained, and is used in the crude state in the subsequent syntheses.

reactant | Ethyl n-decanoate | 10 g | C(CCCCCCCCC)(=O)OCC | C12H24O2
reactant | diisopropylamine | 5.6 cc | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | N-(3-dimethylamino-3-ethoxycarbonylpropenylidene)-N-methylmethanaminium tetrafluoroborate | 14.3 g | F[B-](F)(F)F.CN(C(=CC=[N+](C)C)C(=O)OCC)C
reactant | ammonium chloride | 4 g | [Cl-].[NH4+]
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 30 cc | O1CCCC1 | C4H8O
solvent | water | 50 cc | O | H2O
solvent | water | 100 cc | O | H2O
solvent | Dichloromethane | 200 cc | ClCCl | CH2Cl2
product | Ethyl 2-dimethylamino-5-ethoxycarbonyl-2,4-tridecadienoate | 9.8 g | CN(C(C(=O)OCC)=CC=C(CCCCCCCC)C(=O)OCC)C | C20H35NO4
